US07211601B2
(2S,4EZ)-N-[2-(diethylamino)ethyl]-1-(diphenylacetyl)-4-(ethoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-tert-butoxycarbonyl)-4-(ethoxyimino)-2-pyrrolidinecarboxylic acid, diphenylacetyl chloride, and N1,N1-diethyl-1,2-ethanediamine the title compound was obtained in 50% purity by LC/MS. MS(ESI+): m/z=465.4.

reactant | 4-(ethoxyimino)-2-pyrrolidinecarboxylic acid | C(C)ON=C1CC(NC1)C(=O)O | C7H12N2O3
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | N1,N1-diethyl-1,2-ethanediamine | C(C)N(CCN)CC | C6H16N2
product | (2S,4EZ)-N-[2-(diethylamino)ethyl]-1-(diphenylacetyl)-4-(ethoxyimino)-2-pyrrolidinecarboxamide | C(C)N(CCNC(=O)[C@H]1N(CC(C1)=NOCC)C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC | C27H36N4O3
